US07183287B2
Preparation of N-[(1S)-1-(aminocarbonyl)ethyl]-3-[5-chloro-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-4-methylbenzamide
The title compound was prepared using a procedure similar to that used in Step 4 of the synthesis of 3-[5-chloro-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-N-[1-(aminocarbonyl)methyl]-4-methylbenzamide by substituting L-alaninamide HCl for glycineamide HCl. 1H NMR (CD3OD/400 MHz) δ8.32 (s, 1H), 7.96 (m, 1H), 7.82 (m, 1H), 7.61 (q, 1H, J=6.4 Hz), 7.53 (d, 1H, J=8.0 Hz), 7.02 (m, 2H), 5.60 (m, 2H), 4.55 (q, 1H, J=6.0 Hz), 2.20 (s, 3H), 1.45 (d, 3H, J=6.0 Hz). ESHRMS m/z 477.1141 (M+H calculated for C22H20ClF2N4O4 requires 477.1136).

reactant | 3-[5-chloro-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-N-[1-(aminocarbonyl)methyl]-4-methylbenzamide | ClC1=C(N=CN(C1=O)C=1C=C(C(=O)NCC(=O)N)C=CC1C)OCC1=C(C=C(C=C1)F)F | C21H17ClF2N4O4
reactant | glycineamide HCl | Cl.NCC(=O)N
product | N-[(1S)-1-(aminocarbonyl)ethyl]-3-[5-chloro-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-4-methylbenzamide | NC(=O)[C@H](C)NC(C1=CC(=C(C=C1)C)N1C=NC(=C(C1=O)Cl)OCC1=C(C=C(C=C1)F)F)=O | C22H19ClF2N4O4
